US08349846B2
3-Bromo-2-[(E)-2-(3-methoxy-2-propoxyphenyl)vinyl]-4H-pyrido[1,2-a]pyrimidin-4-one
The title compound was prepared from 3-bromo-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one (1.2 g, 5.012 mmol) and (3-methoxy-2-propoxy)benzaldehyde (1.17 g, 6.021 mmol) in the presence of sodium ethoxide (0.512 g, 7.521 mmol) in absolute ethanol (25 ml) as described in Intermediate 1 to give 681 mg of the product as a light yellow solid; 1H NMR (300 MHz, CDCl3) δ 1.15 (t, J=7.8 Hz, 3H), 1.89 (q, J=7.2 Hz, 2H), 3.87 (s, 3H), 3.99 (t, J=6.6 Hz, 2H), 6.91 (d, J=7.5 Hz, 1H), 7.05-7.11 (m, 2H), 7.33 (d, J=7.2 Hz, 1H), 7.58-7.70 (m, 3H), 8.42 (d, J=13.8 Hz, 1H), 8.94 (d, J=6.9 Hz, 1H).

reactant | 3-bromo-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | 5.012 mmol, 1.2 g | BrC1=C(N=C2N(C1=O)C=CC=C2)C | C9H7BrN2O
reactant | (3-methoxy-2-propoxy)benzaldehyde | 6.021 mmol, 1.17 g | COCC(C)OC1=C(C=O)C=CC=C1 | C11H14O3
reactant | sodium ethoxide | 7.521 mmol, 0.512 g | [O-]CC.[Na+]
reactant | ethanol | 25 ml | C(C)O | C2H6O
product | 3-Bromo-2-[(E)-2-(3-methoxy-2-propoxyphenyl)vinyl]-4H-pyrido[1,2-a]pyrimidin-4-one | BrC1=C(N=C2N(C1=O)C=CC=C2)\C=C\C2=C(C(=CC=C2)OC)OCCC | C20H19BrN2O3
